US08216547B2
A 12-L 4-neck flask equipped with an overhead mechanical stirrer, N2 inlet/outlet adapter, and thermocouple was charged with DMF (4.9 L), N-(3-methylbenzo[b]thiophen-2-yl)-4-carbomethoxy-benzenesulfonamide (245 g, 0.68 mol) and K2CO3 (112 g, 0.81 mol). 4-Fluoro-3-(trifluoromethyl)benzyl bromide (210 mL, 0.81 mol) was then added drop-wise over 15 min and the resulting mixture was stirred for 18 h at room temperature. The resulting mixture was poured into cold H2O (10 L), stirred for 30 min, to which was then added EtOAc (4 L). The layers were separated and the aqueous phase was extracted with EtOAc (2×1 L). The combined EtOAc layers were washed with brine (1 L), dried over Na2SO4, filtered and evaporated under reduced pressure to yield a residue. The residue was purified using flash column chromatography (SiO2) eluting with heptane-EtOAc to yield N-[4-fluoro-3-(trifluoromethyl)-benzyl]-N-(3-methylbenzo[b]thiophen-2-yl)-4-carbomethoxy-benzenesulfonamide as a white solid. 1H-NMR (DMSO-d6) δ 8.21 (d, 2H), 8.03 (d, 2H), 7.86-7.83 (m, 1H), 7.71-7.63 (m, 3H), 7.45-7.37 (m, 3H), 4.89 (br s, 2H), 3.93 (s, 3H), 1.94 (s, 3H).

reactant | DMF | 4.9 L | CN(C)C=O | C3H7NO
reactant | N-(3-methylbenzo[b]thiophen-2-yl)-4-carbomethoxy-benzenesulfonamide | 0.68 mol, 245 g | CC=1C2=C(SC1NS(=O)(=O)C1=CC=C(C=C1)C(=O)OC)C=CC=C2 | C17H15NO4S2
reactant | K2CO3 | 0.81 mol, 112 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-Fluoro-3-(trifluoromethyl)benzyl bromide | 0.81 mol, 210 mL | FC1=C(C=C(CBr)C=C1)C(F)(F)F | C8H5BrF4
solvent | EtOAc | 4 L | CCOC(=O)C | C4H8O2
solvent | H2O | 10 L | O | H2O
product | N-[4-fluoro-3-(trifluoromethyl)-benzyl]-N-(3-methylbenzo[b]thiophen-2-yl)-4-carbomethoxy-benzenesulfonamide | FC1=C(C=C(CN(S(=O)(=O)C2=CC=C(C=C2)C(=O)OC)C2=C(C3=C(S2)C=CC=C3)C)C=C1)C(F)(F)F | C25H19F4NO4S2
